US05321021
A solution of 100 mg of 1-[(4,5-dihydro-7-oxo-phenyl-7H-thieno[2,3-a]quinolizin-10-yl)carbonyl]-4-piperidinol in 5 ml of methylene chloride was treated with 51 mg of pyridinium chlorochromate. After the reaction was completed, the solvent was evaporated in vacuo and the residue was chromatographed over silica gel. The product was recrystallized from diethyl ether and there was obtained 1-[(4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]-quinolizin-10-yl)carbonyl]-4-piperidinone of m.p. 218°-220°.

reactant | 1-[(4,5-dihydro-7-oxo-phenyl-7H-thieno[2,3-a]quinolizin-10-yl)carbonyl]-4-piperidinol | 100 mg | O=C1N2CCC3=C(C2=C(C=C1)C(=O)N1CCC(CC1)O)SC(=C3)C3=CC=CC=C3 | C23H22N2O3S
reactant | pyridinium chlorochromate | 51 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-[(4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]-quinolizin-10-yl)carbonyl]-4-piperidinone | O=C1N2CCC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)N1CCC(CC1)=O)SC=C3 | C23H20N2O3S
